US07728012B2
40.2 Phenylmethyl [3-amino-2-hydroxy-3-oxo-1-(2-thienylmethyl)propyl]carbamate
40.2 g of pyridine-SO3 complex were added in portions to a mixture of 36.8 g of phenylmethyl [2-hydroxy-1-(2-thienylmethyl)ethyl]carbamate (126.3 mmol) and 51.2 g of triethylamine in 220 ml of dimethyl sulfoxide at about 16° C., and the mixture was stirred at room temperature for 3 hours. It was then poured into ice-water (1.5 l) and extracted with ethyl acetate, and the organic phase was washed with 1N HCl and sat. NaCl solution, dried and evaporated. The resulting oil (38 g) was dissolved in 150 ml of tetrahydrofuran, and a solution of 44.4 g of NaCN in 225 ml of saturated NaHCO3 solution was added dropwise. After 2 hours, the phases were separated, the aqueous phase was extracted with ethyl acetate, and the combined organic phases were washed with H2O and saturated NaCl solution, dried and concentrated. The residue obtained in this way was again dissolved in 400 ml of tetrahydrofuran and, over the course of 30 minutes, 65 ml of conc. HCl and 150 ml of conc. H2SO4 were added dropwise in parallel while cooling in ice, and the mixture was stirred at room temperature. After the reaction was complete, the reaction mixture was poured into ice-water and extracted with ethyl acetate, and the organic phase was washed with 1N NaOH and sat. NaCl solution, dried and concentrated. The remaining oily residue was stirred with diethyl ether, and the resulting solid was filtered off with suction and dried, resulting in 16.3 g of the title compound as a whitish gray amorphous solid.

reactant | phenylmethyl [2-hydroxy-1-(2-thienylmethyl)ethyl]carbamate | 126.3 mmol, 36.8 g | OCC(CC=1SC=CC1)NC(OCC1=CC=CC=C1)=O | C15H17NO3S
reactant | triethylamine | 51.2 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 220 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | HCl | 65 ml | Cl | ClH
solvent | H2SO4 | 150 ml | OS(=O)(=O)O | H2O4S
product | Phenylmethyl [3-amino-2-hydroxy-3-oxo-1-(2-thienylmethyl)propyl]carbamate | 16.3 g | NC(C(C(CC=1SC=CC1)NC(OCC1=CC=CC=C1)=O)O)=O | C16H18N2O4S
